US08703797B2
To a solution of N-(pyridin-2-yl)pivalamide (2.0 g, 11.22 mmoles) in THF at −78° C. was added 9.4 mL (2.1 eq) of n-BuLi. The resulting mixture was stirred at 0° C. for 3 hours. The reaction mixture was then cooled to −78° C. after which N-methoxy-N-methylacetamide (1.2 g, 1.1 eq) was added as a solution in THF. The resulting mixture was stirred at room temperature for 2 hours. It was then quenched into ice-H2O. The resulting mixture was extracted with CH2Cl2 (3×20 mL) and the combined organic extracts were washed with H2O (2×20 mL), brine (lx 20 mL), then dried over MgSO4. Concentration and purification by MPLC gave N-(3-acetylpyridin-2-yl)pivalamide (1.62 g, 65%). Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.36 (s, 9 H) 2.65 (s, 3 H) 7.09 (dd, J=7.76, 4.83 Hz, 1 H) 8.17 (dd, J=7.76, 1.90 Hz, 1 H) 8.64 (dd, J=4.69, 2.05 Hz, 1 H) 11.49 (br. s., 1 H).

reactant | N-(pyridin-2-yl)pivalamide | 11.22 mmoles, 2.0 g | N1=C(C=CC=C1)NC(C(C)(C)C)=O | C10H14N2O
reactant | n-BuLi | 9.4 mL, 2.1 eq | [Li]CCCC
reactant | N-methoxy-N-methylacetamide | 1.2 g, 1.1 eq | CON(C(C)=O)C | C4H9NO2
solvent | THF | C1CCOC1 | C4H8O
product | N-(3-acetylpyridin-2-yl)pivalamide | 1.62 g, 65% | C(C)(=O)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C12H16N2O2
